Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
failure to thrive, malaise

 
Major Surgical or Invasive Procedure:
Paracentesis x2 of ascites

 
History of Present Illness:
___ with CLL on Ibrutinib, HFpEF on Lasix, and Crohns p/w 
malaise, weakness and ongoing abdominal pain. He is transferred 
to the ICU due to one episode of hypotension (88/55 in the ED) 
and their ongoing concern for early sepsis.

Yesterday he had a colonoscopy at ___ that showed colon CA (___ 
records: fungating partially obstructing circumfrential large 
mass in ascending colon on colonoscopy yesterday). In the last 
few days he has noted increased weakness, and poor PO intake 
with poor appetite. Today he was unable to ambulate ___ 
weakness. No falls. No chest pain. Does endorse mild dyspnea 
which is chronic and very poor appetite in the last 7 days, 
almost no PO intake in last 2 per wife. 

In the ED, initial vitals:  Afebrile, HR 102, 102/56, 96%RA
- Exam notable for  AAOx2, Tender abdomen
- Labs were notable for:  BNP 4701, WBC 13, INR 1.8, Lactate 
2.1, UA that is equivocal
- Imaging:  CXR with plueral effusion and pulm edema
- Patient was given:  Vanc / Cef / 1LNS 
 
On arrival to the FICU, is comfortable  on room air able recount 
the history. Understands his oncology history relatively well 
though did ask me to explain some details. Hungry and thirsty.
 
Review of systems:  
(+) Per HPI  + constipation, no diarrhea, no recent URI sx or 
cough ++anorexia with very poor appetite 

 
Past Medical History:
-  Edema/diastolic congestive heart failure ___ EF 65%) on 
Lasix
-  Hypertension.
-  Dyslipidemia.
-  Valvular heart disease (1+ MR, 1+ TR, and mild-to-moderate 
pulmonary artery systolic hypertension (34-39 mmHg).
-  Mildly dilated aortic root (3.8 cm) and ascending aorta 
(3.7cm).
-  Atrial flutter/atrial fibrillation (avoid anticoagulation 
other than asprin due to his CLL therapy-Ibrutinib)
- polymyalgia rheumatic
- status post TURP
- CLL 
- Crohns
- vitamin D deficiency, 
- secondary hyperparathyroidism,
- decreased testosterone, 
- osteoporosis, 
- nephrolithiasis status post TURP, 
- gout, 
- erectile dysfunction, 
- vertigo, 
- migraine headache
 
Social History:
___
Family History:
- His father died at age ___ of leukemia.  
- His mother died at age ___ of motor vehicle accident.  
- He has no siblings, one son and two daughters.  
- One of his daughters has hypertension
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  afebrile, 100s/60s, HR ___, 95% RA
GENERAL: Alert, oriented, no acute distress, Cachectic appearing 
 
HEENT: very dry mucosa, slight yellow hue to sclera, +white 
plaques on tongue
NECK: thin, no JVP, no LAD 
LUNGS: crackles at bases b/l posteriourly 
CV: irregular with rates in the ___, +RUSB SEM ___  
ABD: distended but soft and +tender on deep palpation  
EXT: Mild ___ edema with chronic venous stasis changes 
SKIN:  Periumbilical pink - clear papules 
NEURO: good historian, clear speech, moves all ext 
spontaneously, lifts legs off b/l, facial exam is symmetric, 
midline tongue
ACCESS:  2 PIVs

Discharge Physical Exam:  
VS: 97.4 87-118/40-56 ___ 20 99% 3L
GENERAL: Alert, oriented, no acute distress, Cachectic appearing 

HEENT: MMM, EOMI
NECK: thin, no JVD, no LAD  
LUNGS: crackles at bases b/l posteriorly  
CV: Irregularly irregular, +RUSB SEM ___  
ABD: distended, slightly firm and +tender on deep palpation  
EXT: Mild ___ edema with chronic venous stasis changes  
SKIN: No concerning lesions
NEURO: good historian, clear speech, moves all ext 
spontaneously,
lifts legs off b/l, facial exam is symmetric, midline tongue  
 
Pertinent Results:
ADMISSION LABS:
___ 06:25PM URINE  HOURS-RANDOM UREA N-968 CREAT-280 
SODIUM-<20
___ 06:25PM URINE  OSMOLAL-581
___ 06:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM  UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 06:25PM URINE  RBC-3* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 04:55PM   LACTATE-2.1* K+-5.3*
___ 04:46PM   GLUCOSE-107* UREA N-38* CREAT-1.7* SODIUM-135 
POTASSIUM-6.2* CHLORIDE-99 TOTAL CO2-22 ANION GAP-20
___ 04:46PM   ALT(SGPT)-12 AST(SGOT)-41* ALK PHOS-87 TOT 
BILI-1.4
___ 04:46PM   LIPASE-12
___ 04:46PM   cTropnT-0.05*
___ 04:46PM   proBNP-4701*
___ 04:46PM   ALBUMIN-2.8* CALCIUM-8.5 PHOSPHATE-4.9* 
MAGNESIUM-2.2
___ 04:46PM   WBC-13.7*# RBC-4.07* HGB-11.0* HCT-35.0* 
MCV-86 MCH-27.0 MCHC-31.4* RDW-17.2* RDWSD-53.7*
___ 04:46PM   NEUTS-92.4* LYMPHS-3.4* MONOS-3.2* EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-12.69*# AbsLymp-0.46* AbsMono-0.44 
AbsEos-0.00* AbsBaso-0.01
___ 04:46PM   PLT COUNT-238
___ 04:46PM   ___ PTT-28.6 ___

PERTINENT LABS
___ 04:46PM BLOOD cTropnT-0.05*
___ 06:30PM BLOOD CK-MB-2 cTropnT-0.02*
___ 12:30AM BLOOD CK-MB-4 cTropnT-0.18*
___ 11:45AM BLOOD CK-MB-3 cTropnT-0.09*
___ 05:20AM BLOOD CK-MB-2 cTropnT-0.05*

DISCHARGE LABS
___ 07:50AM BLOOD WBC-7.0 RBC-3.84* Hgb-10.2* Hct-34.4* 
MCV-90 MCH-26.6 MCHC-29.7* RDW-17.4* RDWSD-56.8* Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-94 UreaN-31* Creat-1.3* Na-137 
K-3.8 Cl-103 HCO3-25 AnGap-13
___ 12:30AM BLOOD ALT-9 AST-10 CK(CPK)-19* AlkPhos-101 
TotBili-0.7
___ 07:50AM BLOOD Calcium-8.5 Phos-3.2 Mg-2.1

PATH
Skin, periumbilical:
- Mucin-producing adenocarcinoma consistent with metastatic 
colonic carcinoma; present at the
tissue edges (See comment).
Comment. Lesional cells are immunoreactive for keratin 
(AE1/AE3), cytokeratin-20 and CDX-2, and
are non-reactive for cytokeratin-7, supporting the above 
diagnosis. Preliminary findings
communicated to Dr. ___ by Dr. ___ at 11:40 hours on 
___.

colonoscopy path available at ___; no record of it at ___
___ 12:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:35 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ ___ 
11:30AM. 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    RARE 
GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 

__________________________________________________________
___ 6:05 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 1:00 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:52 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

STUDIES:

CT ABD & PELVIS W/O CONTRAST ___  
1. Study is limited in the absence of IV/po contrast. 
2. Ascending colonic thickening at site of presumed mass, 
without evidence of perforation. 
3. Findings concerning for peritoneal carcinomatosis, recommend 
correlation with prior imaging. 
4. 11.3 x 6.3 cm left hepatic lesion corresponds to a previously 
characterized hemangioma.  However, this noncontrast study is 
not tailored for evaluation of hepatic metastases. 
5. Splenomegaly and moderate volume non-hemorrhagic ascites. 
6. Cholelithiasis. 
7. Innumerable pulmonary nodules in the partially imaged lung 
bases, 
compatible with metastases. 
8. Bilateral nonhemorrhagic pleural effusions, small on the 
right, and at 
least moderate on the left. 

CXR ___
  
LEFT PLEURAL EFFUSION AND MULTIPLE PULMONARY NODULES AS WELL AS 
INTERSTITIAL THICKENING A CONCERNING FOR EXTENSIVE LYMPHANGITIC 
AND HAMMER TO GENU SPREAD OF THE TUMOR DUE TO EXTENSIVE 
METASTATIC DISEASE.  HEART SIZE AND MEDIASTINUM ARE OVERALL 
UNCHANGED.  THERE IS NO PNEUMOTHORAX. 

 
Brief Hospital Course:
___ year-old male with CLL, HFpEF and recent diagnosis of colon 
mass (followed at ___) who presented with malaise, weakness, 
abdominal pain, found to have leukocytosis, hypotension, 
elevated lactate and ascites secondary to colon cancer with 
metastases discharged home with hospice services.

#GOC: Patient confirms that he does not want intubation or 
resuscitation. Continue goals of care discussion with patient 
and oncology teams, DNR / DNI at this time. COntinued discussion 
with family and patient, who are in agreement that home with 
hospice services would provide the quality of life and care that 
they would like in the setting of Mr. ___ health status. 
They have selected a hospice
service. Dc'd foley catheter for comfort. Underwent therapeutic 
paracentesis for distension ___ malignant ascites on ___ 
prior to discharge.
- continue care oriented towards comfort with PRN meds for pain, 
nausea, anxiety, agitation
- before discharge, restarted PPX with Bactrim (DS TIW), as well 
as other home medications with recommendations that they are 
okay to miss, take Lasix and allopurinol PRN for edema and gout 
pain, pt does not need to take medications unless he wishes to 
do so for comfort

# Sepsis: leukocytosis, hypotension, elevated lactate in an 
immunocompromised host (CLL). Suspected sources of infection 
included abdominal vs infected pleural effusion vs. new 
pneumonia. Urinalysis without evidence of infection, no 
diarrhea, and no skin findings or neurologic findings. Fluid 
resuscitated in ED but with no pressor requirement. Started on 
vancomycin/meropenem on arrival but narrowed to 
ciprofloxacin/Flagyl for abdominal source. Ascites sampled and 
corrected PMNs for RBCs count >250 and he was intermittently 
encephalopathic so he was continued for 5 day course (day 1- 
___ for spontaneous bacterial peritonitis (although malignant 
ascites very rarely becomes infected; favored treatment given 
his tenuous clinical status).
- Treated for likely abdominal infection in the setting of 
carcinoma with mets. No culture evidence of infection, but 
treated with ___ days of antibiotics and remained afebrile, 
aseptic after course of antibiotics. 

#NSTEMI ___ demand - patient had NSTEMI on ___ in the setting 
of tachycardia and hypotension, trops elevated 0.02 ->0.18 at 
peak, downtrended after. Patient was asymptomatic throughout. 
NTD.

#Pulmonary Edema - flash pulmonary edema ___, ddx reaction to 
IVIG vs NSTEMI. Stable at time of discharge, new O2 requirement. 

- sating well on ___ NC; he will go home with hospice services 
including O2 NC

#Bradycardia - intermittent bradycardia to 40's, typically 
overnight. asymptomatic. NTD.

# Chronic lymphocytic leukemia
# Failure to thrive
# Constipation
# Adenocarcinoma of the colon: 
# Ascites: recent colonoscopy with biopsy of mass (results 
available at ___). No signs of obstruction or free air on 
admission CT A/P. Placed on aggressive bowel regimen. Nutrition 
consulted. Pain controlled with APAP and low dose oxycodone, 
changed to morphine at discharge with hospice services. 
Pathology returned adenocarcinoma. 3.3L of turbid/red ascites 
drained on ___ and sent for cytology; low SAAG consistent with 
exudate. Transferred to ___ on ___ for further care. Palliative 
Care and social work consulted, patient discharged home with 
hospice services. 

# Chronic pleural effusions:  seen on CT Chest ___ and again 
on admission CXR. Likely related to metastatic pulmonary disease 
though some component is ___ given elevated BNP. No 
intervention indicated at this time. 

# Acute kidney injury: Cr 1.7 admission (baseline 1.2 two months 
ago). Occurred in the setting of poor oral intake. Improved with 
IV fluid resuscitation suggesting prerenal/hypovolemia.
- Cr 1.3 at time of discharge. No further labs indicated given 
comfort oriented care. 
 
# Urinary retention: in the setting of acute illness, narcotics 
and ascites. Started tamsulosin with some improvement. Patient 
may continue to take this medication at hone as needed

# Thrush: noted white nonadherent plaques noted on exam, started 
on clotrimazole troches TID. Patient may continue to take this 
medication at hone as needed

# Atrial fibrillation: on aspirin only which was continued 
during admission.

# Hypertension: held lisinopril in the setting of hypotension. 
Patient does not need to continue this medication at home while 
we prioritize comfort care.

# Coronary artery disease: discontinued home simvastatin while 
we prioritize comfort care.

# Chronic congestive heart failure with preserved ejection 
fracture: held home Lasix 
and lisinopril given hypotension. Restarted Lasix on ___ once 
pressures recovered.

# History of gout: held home allopurinol. may resume as needed 
for gout pain at home

# History of Crohn's Disease: continued home mesalamine 1000 mg 
PO TID  

# Previously Presumed Zoster: cutaneous findings consistent 
Sister ___ metastatic disease. VZV therapy stopped. 
Cutaneous biopsy performed on ___ to evaluate for metastasis 
which showed colon adenocarcinoma. 

TRANSITIONAL ISSUES:
#discharged home with hospice services
#patient discharged home on many of his prior home medications; 
may take all of them as needed if the pill burden is too high, 
including allopurinol, Lasix, omeprazole, tamsulosin 
#underwent paracentesis for comfort during admission; may 
consider repeat palliative paracentesis if abd distension and 
discomfort worsens
#valacyclovir was stopped, since skin papules biopsy confirmed 
to be cutaneous metastatic adenocarcinoma
#no formal follow up appointment is currently necessary with Dr. 
___ if patient would like to schedule an appointment about 
his colon cancer, may contact Dr. ___ office at ___
-Patient discharged on home o2 (d/c o2 was 99 % on 3 L); please 
wean as tolerated

# Contact: ___ (Wife ___ 
# Code: DNR / DNI, confirmed with patient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Mesalamine 1000 mg PO TID 
3. Allopurinol ___ mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Simvastatin 20 mg PO QPM 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. ValACYclovir 1000 mg PO Q8H 
10. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN pain 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. Omeprazole 20 mg PO DAILY 
13. Calcium Carbonate 500 mg PO QID:PRN gi 
14. Aspirin 81 mg PO DAILY 
15. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
16. Cyanocobalamin 100 mcg PO DAILY 

 
Discharge Medications:
1. Mesalamine 1000 mg PO TID 
2. Omeprazole 20 mg PO DAILY 
3. Baclofen 2.5 mg PO TID 
RX *baclofen 10 mg 0.25 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
4. Bisacodyl 10 mg PO DAILY:PRN Constipation 
RX *bisacodyl [Correctol] 5 mg 2 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
5. OLANZapine 2.5 mg PO DAILY 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth every night Disp #*60 
Tablet Refills:*0
6. OLANZapine 2.5 mg PO BID:PRN agitation 
RX *olanzapine 5 mg 0.5 (One half) tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0
7. Ondansetron ___ mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg ___ tablet(s) by mouth every 8 hrs Disp 
#*30 Tablet Refills:*0
8. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 17 g by mouth 
daily Disp #*10 Packet Refills:*0
9. Senna 8.6 mg PO BID:PRN Constipation 
10. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
11. Allopurinol ___ mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
13. Fluticasone Propionate 110mcg 2 PUFF IH BID 
14. Clotrimazole 1 TROC PO QID 
RX *clotrimazole [Antifungal (clotrimazole)] 1 % four times a 
day apply to rash four times a day Refills:*0
15. Acetaminophen 650 mg PO Q6H 
16. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 1 puff every ___ hrs 
Disp #*2 Inhaler Refills:*0
17. Docusate Sodium 100 mg PO BID 
18. LORazepam Intensol (LORazepam) 0.25-2 mg ORAL Q4H:PRN 
anxiety, nausea, restlessness 
19. haloperidol lactate 0.25-2 mg ORAL Q6H:PRN anxiety, nausea 
20. Bisacodyl 10 mg PR QHS:PRN constipation 
21. Atropine Sulfate 1% ___ DROP SL ASDIR 
22. Acetaminophen 650 mg PR Q6H:PRN pain 
to take if cant take po  
23. Aspirin 81 mg PO DAILY 
24. OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every 3 hrs Disp #*30 
Capsule Refills:*0
25. Furosemide 40 mg PO DAILY:PRN sob 
only take on days with significant leg, abdominal swelling and 
shortness of breath 
RX *furosemide 40 mg 1 tablet(s) by mouth sob Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
CLL 
stage IV colon adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with weakness and abdominal 
pain in the setting of recent colonoscopy concerning for colon 
cancer. You were admitted to the ICU for low blood pressures and 
concern for infection. Once you stabilized and there was no 
further concern for an infection, your antibiotics were stopped 
and you were transferred to the oncology service for further 
care. On the floor, you met with the oncology team and social 
work to help arrange hospice services. 

You are written to continue home medications such as allopurinol 
and Lasix, as well as written for new medications including 
tamsulosin. You do not need to take any medications that you do 
not wish to take. You may also take medications just as needed, 
such as Lasix for swelling, allopurinol as needed for gout pain, 
and tamsulosin as needed for inability to urinate.

You are now safe for discharge from the hospital with services. 
It was a pleasure caring for you - we wish you all the best!

Sincerely,
Your ___ Oncology Team
 
Followup Instructions:
___